US08754068B2
Betuline (2 g, 4.52 mmol) was dissolved in DMF (13 ml) and treated with IMIDAZOLE (0.923 g, 13.55 mmol) and TBDPS-Cl (2.437 ml, 9.49 mmol) at 50° C. for 18 h. TLC showed the reaction was complete. The reaction mixture was cooled to rt and diluted with EtOAc and water. The organic layer was separated dried over sodium sulfate, filtered and concentrated in vacuo. The crude was purified using silica gel chromatography (0-20% EtOAc/Hex) to afford (1R,3aS,5aR,5bR,7aR,9S,11aR,11bR,13bR)-3a-((tert-butyldiphenylsilyloxy)methyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)icosahydro-1H-cyclopenta[a]chrysen-9-ol (2.75 g, 89% yield) as a white solid. 1H NMR (500 MHz, CHLOROFORM-d) δ ppm 0.73 (s, 3H), 0.78 (s, 3H), 0.79 (s, 3H), 0.95 (s, 3H), 0.99 (s, 3H), 1.09 (s, 9H), 0.98-1.66 (m, 19H), 1.67 (s, 3H), 1.80-1.94 (m, 2H), 2.11-2.19 (m, 2H), 2.29 (td, J=11.06, 5.65 Hz, 1H), 3.16-3.24 (m, 1H), 3.35 (d, J=10.07 Hz, 1H), 3.71 (d, J=9.77 Hz, 1H), 3.75-3.81 (m, 1H), 4.55 (s, 1H), 4.62 (d, J=2.14 Hz, 1H), 7.37-7.49 (m, 6H), 7.66-7.75 (m, 4H). Step 2: (1R,3aS,5aR,5bR,7aR,9S,11aR,11bR,13bR)-3a-((tert-butyldiphenylsilyloxy)methyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)icosahydro-1H-cyclopenta[a]chrysen-9-ol (2.75 g, 4.04 mmol) was dissolved in dichloromethane (50 mL) and treated with PCC (1.480 g, 6.86 mmol) at rt for 18 h. The reaction mixture was diluted with 500 mL of 50% EtOAc/Hexane and stirred at rt for 10 min then filtered through a silica gel and celite pad. The solution obtained was concentrated in vacuo and the residue was dissolved in methylene chloride and purified using silica gel (0-20% EtOAc/Hexanes) to afford: (1R,3aS,5aR,5bR,7aR,11aR,11bR,13bR)-3a-((tert-butyldiphenylsilyloxy)methyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)octadecahydro-1H-cyclopenta[a]chrysen-9(5bH)-one as a white solid (2.5 g, 91%). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 0.77 (S, 3H), 0.89 (s, 3H), 0.97 (s, 3H), 1.05 (s, 3H), 1.09 (s, 12H), 1.13-1.52 (m, 18H), 1.67 (s, 3H), 1.80-1.96 (m, 2H), 2.11-2.22 (m, 2H), 2.29 (td, J=11.04, 5.77 Hz, 1H), 2.35-2.59 (m, 2H), 3.33-3.42 (m, 1H), 3.71 (d, J=9.79 Hz, 1H), 4.56 (s, 1H), 4.62 (d, J=2.01 Hz, 1H), 7.35-7.52 (m, 6H), 7.65-7.78 (m, 4H). Step 3: (1R,3aS,5aR,5bR,7aR,11aR,11bR,13bR)-3a-((tert-butyldiphenylsilyloxy)methyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)octadecahydro-1H-cyclopenta[a]chrysen-9(5bH)-one (2.5 g, 3.68 mmol) was dissolved in THF (20 mL) and cooled to −78° C. A solution of KHMDS (14.73 mL, 7.36 mmol) in toluene was added and the mixture was stirred at this temperature for 30 min, then N-Phenylbis(trifluoromethane)sulfonimide (1.447 g, 4.05 mmol) was added and the stirring was continued for 3 h. The reaction was quenched with water and extracted with ethylacetate. The organic layers were combined and dried over sodium sulfate, filtered and concentrated. The residue was purified using silica gel (0-20% EtOAc/Hexanes) to afford (1R,3aS,5aR,5bR,7aR,11aR,11bR,13bR)-3a-((tert-butyldiphenylsilyloxy)methyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl trifluoromethanesulfonate (3.0 g, 3.70 mmol, 100% yield) as a white solid. This compound was taken to the next step without further purification. HPLC: rt=17.6 min (95% water, 5% MeOH, 10 mm Ammonium Acetate; column: Phenomenex Luna C5 4×6×150 mm 5 u; flow: 1 mL/min) Step 4: A mixture of (1R,3aS,5aR,5bR,7aR,11aR,11bR,13aR,13bR)-3a-((tert-butyldiphenylsilyloxy)methyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl trifluoromethanesulfonate (3 g, 3.70 mmol), 4-methoxycarbonylphenylboronic acid (0.998 g, 5.55 mmol), Na2CO3 (1.176 g, 11.10 mmol) and TETRAKIS(TRIPHENYLPHOSPHINE)PALLADIUM(0) (0.128 g, 0.111 mmol) were refluxed in a mixture of Dioxane (8 mL), 2-Propanol (8.00 mL) and Water (5.00 mL) for 18 h. The reaction mixture was diluted with ethyl acetate and water and the organic layer was separated, dried over sodium sulfate, filtered and concentrated in vacuo. The residue was purified on silica gel to afford methyl 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-((tert-butyldiphenylsilyloxy)methyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate (1.5 g, 1.882 mmol, 50.9% yield) as a white solid. 1H NMR (500 MHz, CHLOROFORM-d) δ ppm 0.81 (s, 3H), 0.95 (d, J=3.36 Hz, 9H), 1.00 (s, 3H), 1.09 (s, 9H), 1.12-1.66 (m, 18H), 1.69 (s, 3H), 1.81-1.95 (m, 1H), 2.08 (dd, J=17.24, 6.26 Hz, 1H), 2.14-2.23 (m, 2H), 2.31 (td, J=10.99, 5.80 Hz, 1H), 3.37 (d, J=10.07 Hz, 1H), 3.75 (d, J=9.46 Hz, 1H), 3.93 (s, 3H), 4.56 (s, 1H), 4.63 (d, J=1.83 Hz, 1H), 5.27-5.31 (m, 1H), 7.21 (d, J=8.24 Hz, 2H), 7.39-7.52 (m, 6H), 7.66-7.78 (m, 4H), 7.95 (d, J=8.24 Hz, 2H). Step 5: A mixture of methyl 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-((tert-butyldiphenylsilyloxy)methyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate (1.5 g, 1.882 mmol) and tetrabutylammonium fluoride (0.492 g, 1.882 mmol) in THF (15 mL) was heated at 50° C. for 18 h. The reaction quenched with water and diluted with EtOAc. The organic layer was separated, dried over Na2SO4, filtered, concentrated in vacuo and purified on silica gel using 0-50%-EtOAc/Hex to afford methyl 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-(hydroxymethyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate (838 mg, 1.500 mmol, 80% yield) as a white solid. A portion of 20 mg was further purified using reverse phase prep HPLC for characterization. 1H NMR (500 MHz, CHLOROFORM-d) δ ppm 0.95 (s, 3H), 1.03 (s, 3H), 1.04 (s, 3H), 1.12 (s, 6H), 0.95-2.63 (m, 26H), 3.38 (d, J=10.99 Hz, 1H), 3.80-3.89 (m, 1H), 3.98 (s, 3H), 4.57-4.65 (m, 1H), 4.72 (d, J=2.44 Hz, 1H), 5.25-5.43 (m, 1H), 7.22 (d, J=8.24 Hz, 2H), 7.95 (d, J=8.24 Hz, 2H).

reactant | (1R,3aS,5aR,5bR,7aR,9S,11aR,11bR,13bR)-3a-((tert-butyldiphenylsilyloxy)methyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)icosahydro-1H-cyclopenta[a]chrysen-9-ol | 4.04 mmol, 2.75 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC[C@]12[C@@H](C3CC[C@@H]4[C@]5(CC[C@@H](C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)O)C)[C@@H](CC2)C(=C)C | C46H68O2Si
reactant | PCC | 6.86 mmol, 1.480 g | C=1C=C[NH+]=CC1.[O-][Cr](=O)(=O)Cl
reactant | (1R,3aS,5aR,5bR,7aR,11aR,11bR,13bR)-3a-((tert-butyldiphenylsilyloxy)methyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)octadecahydro-1H-cyclopenta[a]chrysen-9(5bH)-one | 2.5 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC[C@]12[C@@H](C3CC[C@@H]4[C@]5(CCC(C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)=O)C)[C@@H](CC2)C(=C)C | C46H66O2Si
reactant | (1R,3aS,5aR,5bR,7aR,11aR,11bR,13bR)-3a-((tert-butyldiphenylsilyloxy)methyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)octadecahydro-1H-cyclopenta[a]chrysen-9(5bH)-one | 3.68 mmol, 2.5 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC[C@]12[C@@H](C3CC[C@@H]4[C@]5(CCC(C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)=O)C)[C@@H](CC2)C(=C)C | C46H66O2Si
reactant | KHMDS | 7.36 mmol, 14.73 mL | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | N-Phenylbis(trifluoromethane)sulfonimide | 4.05 mmol, 1.447 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | EtOAc Hexane | 500 mL | CCOC(=O)C.CCCCCC
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | (1R,3aS,5aR,5bR,7aR,11aR,11bR,13bR)-3a-((tert-butyldiphenylsilyloxy)methyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl trifluoromethanesulfonate | 3.70 mmol, 3.0 g, 100% yield | FC(S(=O)(=O)OC=1C([C@@H]2CC[C@]3([C@@]4(CC[C@@]5([C@@H](C4CC[C@@H]3[C@]2(CC1)C)[C@@H](CC5)C(=C)C)CO[Si](C5=CC=CC=C5)(C5=CC=CC=C5)C(C)(C)C)C)C)(C)C)(F)F | C47H65F3O4SSi
